US08039463B2
HOBt (570 mg, 4.2 mmol) and DIPEA (541 mg, 4.2 mmol) were added to a stirred solution of N-biphenyl-4-yl-malonamic acid (1 g, 3.5 mmol) in DMF (10 mL). The reaction mixture was cooled to 10° C. and EDCI.HCl (810 mg, 4.2 mmol) followed by piperazine-1-carboxylic acid tert-butyl ester (720 mg, 3.86 mmol) were added. The resulting reaction mixture was stirred at room temperature overnight. Water was then added and the resulting precipitate was filtered and dried to afford 1.4 g (93%) of 4-[2-(biphenyl-4-ylcarbamoyl)-acetyl]-piperazine-1-carboxylic acid tert-butyl ester. 1H NMR: (CDCl3): δ 8.6 (s, 1H), 7.9 (m, 2H), 7.7 (m, 2H), 7.65 (m, 1H), 7.5 (m, 3H), 7.4 (s, 1H), 4.1 (m, 2H), 3.6 (m, 4H), 3.4 (m, 2H), 3.1 (m, 2H).

reactant | HOBt | 4.2 mmol, 570 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 4.2 mmol, 541 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | N-biphenyl-4-yl-malonamic acid | 3.5 mmol, 1 g | C1(=CC=C(C=C1)NC(CC(=O)O)=O)C1=CC=CC=C1 | C15H13NO3
reactant | EDCI.HCl | 4.2 mmol, 810 mg | CCN=C=NCCCN(C)C.Cl
reactant | piperazine-1-carboxylic acid tert-butyl ester | 3.86 mmol, 720 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 4-[2-(biphenyl-4-ylcarbamoyl)-acetyl]-piperazine-1-carboxylic acid tert-butyl ester | 1.4 g, 93% | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CC(NC1=CC=C(C=C1)C1=CC=CC=C1)=O)=O | C24H29N3O4
